US04476132
20 g of p-acetaminobutyrophenone are suspended in 40 ml of semi-concentrated hydrochloric acid and the suspension is heated under reflux for 25 minutes and poured into a mixture of 100 ml of ice and 30 ml of concentrated sodium hydroxide solution. The mixture is filtered with suction, then the residue is washed twice with ice-cold water, dried in the atmosphere and recrystallised from methanol/water (20 ml+100 ml). p-Aminobutyrophenone having a melting point of 93°-94° is obtained.

reactant | p-acetaminobutyrophenone | 20 g | N(C(=O)C)C1=CC=C(C=C1)C(CCC)=O | C12H15NO2
reactant | sodium hydroxide | 30 ml | [OH-].[Na+]
solvent | hydrochloric acid | 40 ml | Cl | ClH
product | p-Aminobutyrophenone | NC1=CC=C(C=C1)C(CCC)=O | C10H13NO
